US05344938
5-Hydroxy-3-methoxycarbonyl-2-methoxymethyl-1H-indole
32.4 g (300 mmol) of 1,4-benzoquinone was dissolved in 200 ml of ethyl acetate, 200 ml (350 mmol) of acetic acid was added thereto, followed by dropwise addition of 14.5 g (100 mmol) of methyl 4-methoxy-3-amino-2-butenoate. With stirring, the reaction mixture was heated for 15 hours while keeping the inner temperature at 50° C. To this was then added dropwise 200 ml of an aqueous solution containing 52.2 g (300 mmol) of sodium hydrosulfite. The mixture was further stirred at room temperature for 2 hours while controlling the reaction mixture within a pH range of from 4.5 to 7.5 with 5 N sodium hydroxide. Thereafter, crystals thus precipitated were collected by filtration and washed with ethyl acetate to obtain 7.33 g of crude crystals. The filtrate and the washings were combined and then allowed to separate into organic and water layers. The water layer was extracted with 50 ml of ethyl acetate, and the resulting ethyl acetate layer was combined with the organic layer. The thus combined organic layer was washed with saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. After anhydrous magnesium sulfate was filtered off and the solvent was distilled off under reduced pressure, the resulting residue was purified by an alumina column chromatography (eluent: ethyl acetate). Main fractions thus obtained were concentrated, and the concentrated residue was slurried with 150 ml of ethyl acetate. The thus obtained crude product was combined with the crude crystals previously collected by filtration, and the combined product was recrystallized from 260 ml of ethyl acetate to obtain 10.5 g of the title compound with a yield of 44.2%.

reactant | 1,4-benzoquinone | 300 mmol, 32.4 g | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | acetic acid | 350 mmol, 200 ml | C(C)(=O)O | C2H4O2
reactant | methyl 4-methoxy-3-amino-2-butenoate | 100 mmol, 14.5 g | COCC(=CC(=O)OC)N | C6H11NO3
reactant | sodium hydrosulfite | 300 mmol, 52.2 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 5-Hydroxy-3-methoxycarbonyl-2-methoxymethyl-1H-indole | 10.5 g, yield of 44.2% | OC=1C=C2C(=C(NC2=CC1)COC)C(=O)OC | C12H13NO4
